US06924374B2
4-(1-Propyl-piperidin-4-yl)-2-trifluoromethyl-phenylamine
Beginning with 4-(1-Propyl-1,2,3,6-tetrahydropyridine-4-yl)-2-trifluoromethyl-phenylamine, the titled compound was recovered by the procedure described in Preparation 6: MS m/z (rel. intensity, 70 eV)) 286 (M+, 2), 257 (17), 98 (10), 96 (8), 70 (bp), Rf=0.28 (MeOH).

reactant | 4-(1-Propyl-1,2,3,6-tetrahydropyridine-4-yl)-2-trifluoromethyl-phenylamine | C(CC)N1CCC(=CC1)C1=CC(=C(C=C1)N)C(F)(F)F | C15H19F3N2
solvent | MeOH | CO | CH4O
product | 4-(1-Propyl-piperidin-4-yl)-2-trifluoromethyl-phenylamine | C(CC)N1CCC(CC1)C1=CC(=C(C=C1)N)C(F)(F)F | C15H21F3N2
